US04367229
42 g. of 2-amino-pyrroline are dissolved in 400 ml. of ethanol and at 0°-7° C. a solution of 108 g. of diethyl ethoxy-methylene-malonate in 200 ml. ethanol is added dropwise. After the addition is completed the mixture is stirred for 1 hour at 0° C., and allowed to stand for 12 hours at -5° C. The precipitated crystals are filtered. After evaporation of the alcohol the residue is boiled with 200 ml. of benzene. After cooling the insoluble crystals are filtered off. The filtered crystals are combined and recrystallized from ethanol. 50.3 g. (48.4%) ethyl 2-oxo-2,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate are obtained, melting at 193° C.

reactant | 2-amino-pyrroline | NC=1NCCC1 | C4H8N2
reactant | diethyl ethoxy-methylene-malonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-oxo-2,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate | 48.4% | O=C1N=C2N(C=C1C(=O)OCC)CCC2 | C10H12N2O3
